US05792789
Step C: 7-ethoxycarbonylmethoxy-5-hydroxy-2-(3-hydroxy-4-methoxy-2-propylphenyl)-4H-1-benzopyran-4-one
21.3 g of 7-ethoxycarbonylmethoxy-5-hydroxy-2-(2-allyl-3-hydroxy-4-methoxyphenyl)-4H-1-benzopyran-4-one are dissolved in 300 ml of dimethylformamide. The solution is poured into 2 g of 10% palladium on carbon. The whole is hydrogenated at 50° C. under a pressure of 63×104Pa until the theoretical amount of hydrogen has been absorbed. The mixture is then filtered over Millipore and the solvent is removed by distillation under reduced pressure. The crude residue (21 g) may be used as it is. An analytical sample, obtained by recrystallisation from isopropanol, melts at 138° C.

reactant | 7-ethoxycarbonylmethoxy-5-hydroxy-2-(2-allyl-3-hydroxy-4-methoxyphenyl)-4H-1-benzopyran-4-one | 21.3 g | C(C)OC(=O)COC1=CC2=C(C(C=C(O2)C2=C(C(=C(C=C2)OC)O)CC=C)=O)C(=C1)O | C23H22O8
reactant | hydrogen | [H][H] | H2
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
catalyst | palladium on carbon | 2 g | [Pd] | Pd
product | 7-ethoxycarbonylmethoxy-5-hydroxy-2-(3-hydroxy-4-methoxy-2-propylphenyl)-4H-1-benzopyran-4-one | C(C)OC(=O)COC1=CC2=C(C(C=C(O2)C2=C(C(=C(C=C2)OC)O)CCC)=O)C(=C1)O | C23H24O8
